US09403818B2
Preparation of 2-[2-(3-methyl-4-chloro-pyridin-2-yl)-2-cyclopropyl-ethylidene]-malonic acid diethyl ester
A mixture of (3-methyl-4-chloro-pyridin-2-yl)-cyclopropyl-acetaldehyde (4.83 g, 23.0 mmol), diethyl malonate (7.02 g, 43.8 mmol), piperidine (3.62 mL, 36.6 mmol), and acetic acid (4.19 mL, 73.2 mmol) in ethanol (100 mL) was heated to reflux overnight. The reaction mixture was concentrated to dryness. The residue was purified by flash silica column chromatography (hexane:ethyl acetate, 4:1) to afford the title compound as a yellow oil (5.76 g, 71%).

reactant | (3-methyl-4-chloro-pyridin-2-yl)-cyclopropyl-acetaldehyde | 23.0 mmol, 4.83 g | CC=1C(=NC=CC1Cl)C(C=O)C1CC1 | C11H12ClNO
reactant | diethyl malonate | 43.8 mmol, 7.02 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 36.6 mmol, 3.62 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 73.2 mmol, 4.19 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-[2-(3-methyl-4-chloro-pyridin-2-yl)-2-cyclopropyl-ethylidene]-malonic acid diethyl ester | 5.76 g, 71% | C(C)OC(C(C(=O)OCC)=CC(C1CC1)C1=NC=CC(=C1C)Cl)=O | C18H22ClNO4
